US05002856
C. Preparation of 3,6-Dibromo-9-Methyl-1-Nitrocarbazole
3,6-dibromo-1-nitrocarbazole (3.56 g, 0.01 mole) was dissolved in 30 ml of warm DMSO followed by the addition of 30 ml of CH3I. Then 2.0 g of 50% NaH dispersion in mineral oil (0.02 mole) was washed under N2 with 2×50 ml of pentane, dried under N2 and added rapidly to the DMSO solution. The solution turned purple immediately with H2 evolution and became yellow in two minutes. Addition of 0.25 g of NaH did not cause the yellow slurrY to turn purple indicating that the reaction was complete. Methanol (200 ml) was added cautiously to precipitate the product. The product was recovered by filtration, washed with 25 ml of methanol, 10×25 ml of water, 25 ml of methanol and air dried to give 3.40 g of product, m.p. 225°-226° C. (corrected). [H. Lindemann & F. Muhlhaus, Ber., 58, 2371 (1925) report a m.p. of 221° C. for the product].

reactant | 3,6-dibromo-1-nitrocarbazole | 0.01 mole, 3.56 g | BrC=1C=C(C=2NC3=CC=C(C=C3C2C1)Br)[N+](=O)[O-] | C12H6Br2N2O2
reactant | CH3I | 30 ml | CI | CH3I
reactant | NaH | 2.0 g | [H-].[Na+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | pentane | 50 ml | CCCCC | C5H12
product | 3,6-Dibromo-9-Methyl-1-Nitrocarbazole | 3.40 g | BrC=1C=C(C=2N(C3=CC=C(C=C3C2C1)Br)C)[N+](=O)[O-] | C13H8Br2N2O2
